US08431607B2
To a solution of (R)-Benzyl 2-hydroxy-1-(3-(trifluoromethyl)phenyl)ethylcarbamate (4.54 g, 13.4 mmol) in MeOH (100 mL) is slowly added 10 wt % Pd/C (454 mg). The reaction mixture is stirred at room temperature under hydrogen (balloon) for 1.5 h, filtered through celite, and evaporated in vacuo to provide crude (R)-2-amino-2-(3-(trifluoromethyl)phenyl)ethanol (2.70 g, 98% yield) as a white solid product; 1H NMR (CDCl3, 400 MHz) δ 7.62 (s, 1H), 7.55 (m, 2H), 7.47 (t, 1H), 4.15 (dd, 1H), 3.77 (dd, 1H), 3.57 (dd, 1H); HPLC-MS calculated for C9H10F3NO (M+H+) 206.1, found 206.1.

reactant | (R)-Benzyl 2-hydroxy-1-(3-(trifluoromethyl)phenyl)ethylcarbamate | 13.4 mmol, 4.54 g | OC[C@@H](C1=CC(=CC=C1)C(F)(F)F)NC(OCC1=CC=CC=C1)=O | C17H16F3NO3
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 454 mg | [Pd] | Pd
product | (R)-2-amino-2-(3-(trifluoromethyl)phenyl)ethanol | 2.70 g, 98% yield | N[C@@H](CO)C1=CC(=CC=C1)C(F)(F)F | C9H10F3NO
